US06992087B2
Preparation of 5-methyl-4,5,6,7-tetrahydro-1-benzofuran-4-amine
Following the procedure for the preparation of 4,5,6,7-tetrahydro-1-benzofuran-4-amine but substituting 5-methyl-6,7-dihydro-1-benzofuran-4(5H)-one and making non-critical variations provided the title compound as a oil: MS (EI) m/z (rel. intensity) 151 (M+, 64), 151 (64), 134 (86), 110 (83), 109 (99), 108 (55), 88 (56), 86 (87), 84 (92), 80 (76), 51 (67). HRMS (FAB) calcd for C9H13NO+H 152.1075, found 152.1066.

reactant | 4,5,6,7-tetrahydro-1-benzofuran-4-amine | O1C=CC2=C1CCCC2N | C8H11NO
reactant | 5-methyl-6,7-dihydro-1-benzofuran-4(5H)-one | CC1CCC2=C(C=CO2)C1=O | C9H10O2
product | 5-methyl-4,5,6,7-tetrahydro-1-benzofuran-4-amine | CC1CCC2=C(C=CO2)C1N | C9H13NO
